US06489344B1
1 mmol of 2-[2-(2,4-dichlorophenyl)-2-oxoethyl]isoindoline-1,3-dione was heated to 80° C. in neat N,N-dimethylformamidedimethyl acetal for six hours. The reaction mixture was concentrated in vacuo and purified by trituration with diethyl ether to obtain 2-{2-(2,4-dichlorophenyl)-1-[(dimethylamino)methylene]-2-oxoethyl}-isoindoline-1,3-dione.

reactant | 2-[2-(2,4-dichlorophenyl)-2-oxoethyl]isoindoline-1,3-dione | 1 mmol | ClC1=C(C=CC(=C1)Cl)C(CN1C(C2=CC=CC=C2C1=O)=O)=O | C16H9Cl2NO3
solvent | N,N-dimethylformamidedimethyl acetal | CN(C)C(OC)OC | C5H13NO2
product | 2-{2-(2,4-dichlorophenyl)-1-[(dimethylamino)methylene]-2-oxoethyl}-isoindoline-1,3-dione | ClC1=C(C=CC(=C1)Cl)C(C(=CN(C)C)N1C(C2=CC=CC=C2C1=O)=O)=O | C19H14Cl2N2O3
